* Z:\home\violet\projects\wpi\NVM-MQP\spice\2N3819.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 9V
J1 N001 N002 N003 2N3819
C1 N002 ac1 0.1µ
R1 N001 N002 22m
R2 N002 0 22m
R3 N003 0 10k
C2 out N003 10µ
R4 out 0 100k
C3 N001 0 10µ
V2 ac1 0 AC 2V 0
.model NJF NJF
.model PJF PJF
.lib C:\users\violet\AppData\Local\LTspice\lib\cmp\standard.jft
.ac lin 20 20 20000
.backanno
.end
