* Z:\home\violet\projects\wpi\NVM-MQP\spice\simple_op_amp.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N002 0 9v
X§U1 N003 N001 N002 N004 output OP482 ;§pnba In+)In-)V+)V-)OUT
V2 N003 0 AC 1 0
R2 0 N001 1k
R1 N001 output 1k
V3 0 N004 9
.ac dec 10 20 20000
.lib OP482.lib
.backanno
.end
